US04885347
1. Preparation of 1-(2-acetoxyethyl)-2,2,6,6-tetramethyl-4-piperidinol
Into a 250 ml flask equipped with a magnetic stirbar, thermometer, addition funnel and nitrogen atmosphere was placed 1-(2-hydroxyethyl)-2,2,6,6-tetramethyl-4-piperidinol (10.0 g, 0.499 mole) and 75 ml of methylene chloride. The resulting slurry was cooled to -20° C. and the addition funnel was charged with acetic anhydride (5.1 g, 0.496 mole) and 15 ml of methylene chloride. The anhydride was added dropwise to the diol slurry with no apparent reaction. The mixture was warmed to 15° C. at which temperature the solids began to dissolve. The mixture was stirred at ambient temperature for 2 hours. The mixture was poured into 80 ml of 10% sodium carbonate (aqueous) and stirred for 15 minutes at ambient temperature. The mixture was transferred to a separatory funnel and extracted with 100 ml of methyl t-butyl ether. The ether solution was dried with anhydrous magnesium sulfate and the solvent removed using aspirator and high vacuum systems. The product was a white solid melting at 56°-58° C. This material was used without further purification.

reactant | 1-(2-hydroxyethyl)-2,2,6,6-tetramethyl-4-piperidinol | 0.499 mole, 10.0 g | OCCN1C(CC(CC1(C)C)O)(C)C | C11H23NO2
reactant | acetic anhydride | 0.496 mole, 5.1 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium carbonate | 80 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
product | 1-(2-acetoxyethyl)-2,2,6,6-tetramethyl-4-piperidinol | C(C)(=O)OCCN1C(CC(CC1(C)C)O)(C)C | C13H25NO3
